US08536183B2
1,1-Dimethylethyl (3S)-3-methyl-4-{[4-(trifluoromethyl)phenyl]sulfonyl}-1-piperazinecarboxylate
To a solution of 1,1-dimethylethyl (3S)-3-methyl-1-piperazinecarboxylate (2.05 g, 10.24 mmol) in DCM (50 ml) was added DIPEA (2.68 ml, 15.35 mmol) and the mixture stirred at room temperature for 10 minutes before addition of 4-(trifluoromethyl)benzenesulfonyl chloride (3.00 g, 12.28 mmol) at 0° C. The resultant mixture stirred under an atmosphere of Argon for 16 hours before addition of water (50 ml) and DCM (30 ml). The layers were separated using a hydrophobic frit and the organic layers concentrated to dryness giving the title compound (4.4 g) as a white solid.

reactant | 1,1-dimethylethyl (3S)-3-methyl-1-piperazinecarboxylate | 10.24 mmol, 2.05 g | C[C@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | DIPEA | 15.35 mmol, 2.68 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(trifluoromethyl)benzenesulfonyl chloride | 12.28 mmol, 3.00 g | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | water | 50 ml | O | H2O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl (3S)-3-methyl-4-{[4-(trifluoromethyl)phenyl]sulfonyl}-1-piperazinecarboxylate | 4.4 g | C[C@H]1CN(CCN1S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C(=O)OC(C)(C)C | C17H23F3N2O4S
